US06093714
Molecular Sieves 4A (20 g) and pyridinium chlorochromate (6.8 g, 31.5 mmol) were added to a solution of 2-benzyloxycarbonylamino-4-trifluoromethyl-1-hydroxymethylbenzene (6.83 g, 21.0 mmol), prepared in step (c), in methylene chloride (200 ml), and the mixture was stirred under ice cooling for 45 min. Diethyl ether was added to the reaction mixture, and the mixture was filtered through Florisil and silica gel. The solvent was then removed under reduced pressure to give 2-benzyloxycarbonylamino-4-trifluoromethylbenzaldehyde (5.43 g, 80%).

reactant | pyridinium chlorochromate | 31.5 mmol, 6.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-benzyloxycarbonylamino-4-trifluoromethyl-1-hydroxymethylbenzene | 21.0 mmol, 6.83 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=CC(=C1)C(F)(F)F)CO | C16H14F3NO3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylamino-4-trifluoromethylbenzaldehyde | 5.43 g, 80% | C(C1=CC=CC=C1)OC(=O)NC1=C(C=O)C=CC(=C1)C(F)(F)F | C16H12F3NO3
